US05356911
6-Butyl-3,4-bis-ethoxycarbonyl-2-oxo-1,2-dihydropyridine
10 g (50 mmol) of ethyl 2,4-dioxo-octanecarboxylate, 5.65 g (50 mmol) of ethyl cyanoacetate and 5 g (50 mmol) of triethylamine are heated under reflux overnight in 100 ml of ethanol.

reactant | ethyl 2,4-dioxo-octanecarboxylate | 50 mmol, 10 g | O=C(CC(=O)OCC)CC(CCCC)=O | C11H18O4
reactant | ethyl cyanoacetate | 50 mmol, 5.65 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | triethylamine | 50 mmol, 5 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Butyl-3,4-bis-ethoxycarbonyl-2-oxo-1,2-dihydropyridine | C(CCC)C1=CC(=C(C(N1)=O)C(=O)OCC)C(=O)OCC | C15H21NO5
